US05463077
4.2 cm3 of triethylamine and then 2.4 g of (2-methoxyphenyl)-acetyl chloride in 50 cm3 of methylene chloride are added to a solution of 4.5 g of (3aRS, 4RS, 5RS, 7aRS )-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindole-4,5-diol hydrochloride in 100 cm3 of methylene chloride, cooled to 0° C. The reaction mixture is stirred at room temperature for 90 minutes; it is washed with twice 10 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid which has crystallised out is taken up in 100 cm3 of diisopropyl ether and then filtered off and washed with 50 cm3 of a saturated solution of sodium bicarbonate and then 50 cm3 of diisopropyl ether. 4.35 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)-acetyl]-perhydroisoindole-4,5-diol are obtained in the form of a light beige solid which melts at 278° C.

reactant | triethylamine | 4.2 cm3 | C(C)N(CC)CC | C6H15N
reactant | (2-methoxyphenyl)-acetyl chloride | 2.4 g | COC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO2
reactant | 7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindole-4,5-diol hydrochloride | Cl.C1(=CC=CC=C1)C1(CC(C(C2CNCC12)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1
solvent | methylene chloride | 50 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 cm3 | C(Cl)Cl | CH2Cl2
product | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)-acetyl]-perhydroisoindole-4,5-diol | 4.35 g | C1(=CC=CC=C1)C1(CC(C(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C36H37NO5
